US08466181B2
e) 2-Bromo-1-[3-(4-fluoro-phenyl)-5-methyl-3H-[1,2,3]triazol-4-yl]-ethanone
A solution of 1-[3-(4-fluoro-phenyl)-5-methyl-3H-[1,2,3]triazol-4-yl]-ethanone (3.62 g, 17 mmol) was dissolved in chloroform (28 mL) and acetic (0.5 mL) was heated to reflux and then a solution of bromine (0.89 mL, 17 mmol) in chloroform (9 mL) and heated under reflux for 2 h. After cooling to room temperature the mixture was poured onto ice-water and the mixture extracted with dichloromethane. The combined organic extracts were washed with water, brine, dried over sodium sulphate, filtered and evaporated. Purification by chromatography (silica, 10 to 60% ethyl acetate in heptane) afforded the title compound (3.34 g, 68%) as an off white solid. MS: m/e=298.3/300.2 [M+H]+.

reactant | 1-[3-(4-fluoro-phenyl)-5-methyl-3H-[1,2,3]triazol-4-yl]-ethanone | 17 mmol, 3.62 g | FC1=CC=C(C=C1)N1N=NC(=C1C(C)=O)C | C11H10FN3O
reactant | acetic | 0.5 mL | CC(=O)OCC1=C2C=CC=CC2=C(C3=CC=CC=C31)COC(=O)C | C20H18O4
reactant | bromine | 17 mmol, 0.89 mL | BrBr | Br2
solvent | chloroform | 28 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 9 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-Bromo-1-[3-(4-fluoro-phenyl)-5-methyl-3H-[1,2,3]triazol-4-yl]-ethanone | 3.34 g, 68% | BrCC(=O)C=1N(N=NC1C)C1=CC=C(C=C1)F | C11H9BrFN3O
